US07109209B2
Thionyl chloride (200 μL, 2.7 mmol) was added to 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylic acid (31 mg, 0.072 mmol) which had been pre-cooled to 0° C. The reaction mixture was stirred at room temperature for 1 hour. The excess thionyl chloride was removed in vacuo. To a solution of the residue in dichloromethane (300 μL) was added cyclopropylamine (50 uL 0.72 mmol). The reaction mixture was stirred at room temperature for 30 minutes. The resultant mixture was quenched with water and diluted with ethyl acetate. Saturated aqueous sodium bicarbonate solution was added to the biphasic mixture. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (3:2 hexanes:ethyl acetate to 2:3 hexanes:ethyl acetate) provided 3-[2-(cyclopentylamino)-4-pyrimidinyl]-N-cyclopropyl-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxamide (15 mg, 44%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 8.28 (d. 1H), 8.05 (d, 1H), 7.62 (m, 2H), 7.30 (d, 1H), 7.13 (t, 2H), 6.29 (d, 1H), 5.10 (d1 1H), 4.30 (m, 1H), 2.96 (s, 3H), 2.94 (m, 1H), 2.05 (m, 2H), 1.76–1.50 (m, 6H), 0.92 (m, 2H), 0.66 (m, 2H); MS m/z 471 (M+1).

reactant | Thionyl chloride | 2.7 mmol, 200 μL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylic acid | 0.072 mmol, 31 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2C)C(=O)O)C2=CC=C(C=C2)F | C24H22FN5O2
reactant | cyclopropylamine | 0.72 mmol, 50 uL | C1(CC1)N | C3H7N
solvent | dichloromethane | 300 μL | ClCCl | CH2Cl2
product | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-N-cyclopropyl-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxamide | 15 mg, 44% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2C)C(=O)NC2CC2)C2=CC=C(C=C2)F | C27H27FN6O
